US06037506
A 500 mL autoclave was charged with 0.76 mmol palladium (II)acetate, 1.07 mmol of a mixture of 1.2-bis(9-phosphabicyclononyl)ethane, 20.2 mL of anisole (as solvent), 0.45 mL methanesulfonic acid (MSA), 4.80 mL water, 7.91 mL butyl formate (as promoter), and 156 mL octene, 83 ml isononynol. The autoclave was flushed with an equimolar mixture of carbon monoxide and hydrogen pressurized to a total pressure of 50 bar. The autoclave was then sealed and the mixture was heated to 110° C. The reaction was continued for 8 hours and subsequently the reaction mixture was cooled to room temperature and the pressure released. 163 g of nonyl alcohol product was produced (94% conversion of starting material). The reaction rate was about 0.36 hr-1. There was no noticeable paraffin make. This example illustrates that the use of a formic acid derivative as a promoter results in high conversion/high selectivity reactions with excellent reaction rates.

reactant | anisole | 20.2 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | methanesulfonic acid | 0.45 mL | CS(=O)(=O)O | CH4O3S
reactant | butyl formate | 7.91 mL | C(=O)OCCCC | C5H10O2
reactant | octene | 156 mL | C=CCCCCCC | C8H16
reactant | isononynol | 83 ml | C(#CCCCCC(C)C)O | C9H16O
catalyst | palladium (II)acetate | 0.76 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 4.80 mL | O | H2O
product | nonyl alcohol | 163 g | C(CCCCCCCC)O | C9H20O
